US05840912
1-(4-chlor-5-difluormethoxy-1-methyl-3-pyrazolyl)-5-(2-methoxyvinyl)-4-pyrazol-carbonitrile.
2.9 g (8.4 mmol) methoxymethylene-triphenylphosphonium chloride is added to 10 ml tetrahydrofuran and 5.6 ml (9.0 mmol) of a 1,6 molar solution of butyl lithium in hexane is slowly added dropwise at 0° C. The orange-coloured solution is stirred for another 30 minutes and then 1.0 g (3.3 mmol) 1-(4-chlor-5-difluormethoxy-1-methyl-3-pyrazolyl)-5-formyl-4-pyrazol-carbonitrile is slowly added dropwise. Stirring continues for 2 hours at room temperature. The reaction mixture is then added to water, shaken with ethyl acetate, dried over magnesium sulphate and concentrated. Purification is by column chromatography using a hexane/ethyl acetate mixture.

reactant | methoxymethylene-triphenylphosphonium chloride | 8.4 mmol, 2.9 g | [Cl-].COC=C1C(C=CC=C1)[PH+](C1=CC=CC=C1)C1=CC=CC=C1
reactant | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
reactant | butyl lithium | C(CCC)[Li]
reactant | 1-(4-chlor-5-difluormethoxy-1-methyl-3-pyrazolyl)-5-formyl-4-pyrazol-carbonitrile | 3.3 mmol, 1.0 g | ClC=1C(=NN(C1OC(F)F)C)N1N=CC(=C1C=O)C#N | C10H6ClF2N5O2
solvent | hexane | CCCCCC | C6H14
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | 1-(4-chlor-5-difluormethoxy-1-methyl-3-pyrazolyl)-5-(2-methoxyvinyl)-4-pyrazol-carbonitrile | ClC=1C(=NN(C1OC(F)F)C)N1N=CC(=C1C=COC)C#N | C12H10ClF2N5O2
